US06083959
To a solution of 8-[3-(N-glycyl-N-methylamino)-2,6-dichlorobenzyloxy]-4-(imidazol-1-yl)-2-methylquinoline (80 mg), 4-(dimethylcarbamoyl)cinnamic acid (41 mg) and 1-hydroxybenzotriazole (29.9 mg) in dichloromethane (0.8 ml) was added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (39.1 mg) at ambient temperature, and the mixture was stirred for 3 hours at the same temperature. To the mixture was added saturated sodium bicarbonate solution, and the separated organic layer was dried over magnesium sulfate and evaporated in vacuo. The residue was purified by preparative thin layer chromatography (chloroform:methanol, 10:1, v/v) to give 8-[2,6-dichloro-3-[N-[4-(dimethylcarbamoyl)cinnamoylglycyl]-N-methylamino]benzyloxy]-4-(imidazol-1-yl)-2-methylquinoline (104 mg) as colorless amorphous.

reactant | 8-[3-(N-glycyl-N-methylamino)-2,6-dichlorobenzyloxy]-4-(imidazol-1-yl)-2-methylquinoline | 80 mg | NCC(=O)N(C)C=1C(=C(COC=2C=CC=C3C(=CC(=NC23)C)N2C=NC=C2)C(=CC1)Cl)Cl | C23H21Cl2N5O2
reactant | 4-(dimethylcarbamoyl)cinnamic acid | 41 mg | CN(C(=O)C1=CC=C(C=CC(=O)O)C=C1)C | C12H13NO3
reactant | 1-hydroxybenzotriazole | 29.9 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 39.1 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 0.8 ml | ClCCl | CH2Cl2
product | 8-[2,6-dichloro-3-[N-[4-(dimethylcarbamoyl)cinnamoylglycyl]-N-methylamino]benzyloxy]-4-(imidazol-1-yl)-2-methylquinoline | 104 mg | ClC1=C(COC=2C=CC=C3C(=CC(=NC23)C)N2C=NC=C2)C(=CC=C1N(C)C(CNC(C=CC1=CC=C(C=C1)C(N(C)C)=O)=O)=O)Cl | C35H32Cl2N6O4
